Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Lt sided abnormal sensation
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: The patient is a ___ year-old ___ 
right-handed
smoker with a history of HLD, DM and ? "thick blood" who 
presents
with 7 days of left>right weakness and left hemibody numbness. 
Interview conducted with help of a professional ___
interpreter over the phone.

Mr. ___ was in his normal state of health one week ago when
developed gradual onset of generalized fatigue and weakness, 
left
greater than right, leg more than arm.  The weakness was subtle
and did not affect his ability to ambulate or manipulate items
with his left hand.  He also had chest pain and was initially
seen at ___ ED (___/) where a stress test was
negative.  Other labs were done: TSH 1.2, Free T4 nml, Vit D 20
(low), B12 915, ESR 2.  

Three days ago, he developed sudden onset of left hemibody 
(face,
arm, leg) numbness that he characterizes as "very little 
feeling"
as well as some "tingling".  This has remained constant the past
3 days.  He was not aware of this sensation on his trunk.  He
also reports a holocephalic ___ dull, pressure headache
without phonophobia, photophobia, n/v for the past week.  This
morning he also had posterior neck pain, but no stiffness.  He
felt he just slept funny overnight.  He also feels
lightheadedness and feels that he is going to fall occasionally. 

He denies vertigo.  Today he called his PCP who referred him to
the ED. 

Of note, over the past week Mr. ___ tried to quit smoking.  He
has taken aspirin, but prior to the onset of these symptoms, was
taking aspirin unreliably.  He tells me aspirin was started by
his PCP because he "has thick blood."  He is not clear if there
is a hypercoagulable state in his family or himself.  He has not
had blood clots, strokes.  No similar episodes of
weakness/numbness.  He never required brain imaging.  He was
never seen by a neurologist. 

ROS: positive as above.  + Bilateral tinnitus. No
lightheadedness, or confusion. Denies difficulty with producing
or comprehending speech. Denies loss of vision, blurred vision,
diplopia, vertigo, hearing difficulty, dysarthria, or dysphagia.
Denies bowel or bladder incontinence or retention. The patient
denies fevers, rigors, night sweats, or noticeable weight loss.
Denies chest pain, palpitations, dyspnea, or cough. Denies
nausea, vomiting, diarrhea, constipation, or abdominal pain.  No
recent change in bowel or bladder habits.  Denies dysuria or
hematuria. Denies myalgias, arthralgias, or rash.
 
Past Medical History:
PMH/PSH:
- Overweight
- HLD - last LDL 198 ___
- Diabetes - last A1c 7.1 ___
- Vit D deficiency - level 20 on ___
- Diarrhea ___, followed by GI
- Left inguinal hernia
 
Social History:
___
Family History:
FAMILY HISTORY: Mother and father are healthy.  He denies family
history of strokes, blood clots, MIs. 
 
Physical Exam:
PHYSICAL EXAMINATION
Vitals:  98.9 58 120/70 16 100% RA 
General:  overweight, well appearing Asian man.
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, no guarding
Extremities: Warm, no edema

Neurologic Examination:
Awake, alert, oriented x 3. Able to relate history without
difficulty. Attentive. Per interpreter, his speech is fluent 
with
full sentences and intact verbal comprehension. Naming intact. 
No
dysarthria. Normal prosody. No evidence of hemineglect. No
left-right confusion.  Able to follow both midline and
appendicular commands.

- Cranial Nerves - PERRL 4->2 brisk. VF full to finger wiggle.
EOMI, no nystagmus. V1-V3 with decreased sensation to light 
touch
and pin on left hemiface.  Does not split the midline.  No 
facial
movement asymmetry. Hearing intact to finger rub bilaterally. 
Palate elevation symmetric. SCM/Trapezius strength ___
bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___-  ___  4+  5    5- 5     5     5
R  5    ___   ___  5   5    5  5     5     5
** Of note, there is some giveway weakness on the muscle groups
on the left listed as being weak above.  Hard to differentiate
weakness and giveway in this patient. 

- Sensory - Decreased sensation to light touch and pin on left
face, arm and leg in a nondermatomal fashion.  Left sided is
40-70% of what is felt on the right.  He feels the left arm/leg
are "colder" than the right. No exinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response mute on left, flexor on right.

- Coordination - No dysmetria with finger to nose testing
bilaterally.  Toe to target normal bilaterally. Good speed and
intact cadence with rapid alternating movements.

- Gait - Normal initiation. Narrow base. Normal stride length 
and
arm swing. Stable without sway. Negative Romberg.
 
Pertinent Results:
IMAGING:
___ and CTA H&N: On my read there is evidence of SVID
bilaterally.  No areas of early ischemia or acute stroke.  CTA
H&N without stenosis or vasculopathy.

BRAIN MRI: 1. Unremarkable MRI brain without evidence of 
infarct.

___ 03:25PM   ___ PTT-31.9 ___
___ 03:25PM   PLT COUNT-199
___ 03:25PM   NEUTS-47.6 ___ MONOS-6.6 EOS-1.2 
BASOS-0.9 IM ___ AbsNeut-2.72 AbsLymp-2.49 AbsMono-0.38 
AbsEos-0.07 AbsBaso-0.05
___ 03:25PM   WBC-5.7 RBC-4.85 HGB-14.3 HCT-43.1 MCV-89 
MCH-29.5 MCHC-33.2 RDW-12.0 RDWSD-38.9
___ 03:25PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 03:25PM   ALBUMIN-4.6
___ 03:25PM   cTropnT-<0.01
___ 03:25PM   LIPASE-75*
___ 03:25PM   ALT(SGPT)-19 AST(SGOT)-27 ALK PHOS-53 TOT 
BILI-0.7
___ 03:25PM   GLUCOSE-112* UREA N-18 CREAT-0.8 SODIUM-139 
POTASSIUM-4.5 CHLORIDE-104 TOTAL CO2-25 ANION GAP-15
___ 03:47PM URINE  MUCOUS-RARE
___ 03:47PM URINE  RBC-0 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 03:47PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 03:47PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 03:47PM URINE  UHOLD-HOLD
___ 03:47PM URINE  HOURS-RANDOM
 
Brief Hospital Course:
Mr. ___ is a ___ year-old ___ right-handed smoker 
with a history of HLD, DM and ? "thick blood" who presented with 
7 days of gradual onset left>right generalized weakness and 3 
days of abrupt onset left hemibody numbness.  Overall, although 
Mr. ___ history is difficult and there are a few features 
which are
inconsistent with an abrupt vascular onset, his left hemibody 
sensory loss on exam and partial UMN pattern of weakness are 
concerning.  His stepwise sensorimotor deficit could be the 
manifestation of a stuttering lacunar stroke to the
thlamocapsular region or corona radiata.  This is especially 
important in this young man with multiple vascular risk factors 
(HLD, DM, smoking, obesity) who may have a hypercoagulable 
disorder (unclear from history).  He was admitted and had brain 
MRI done which didn't show any evidence of stroke or bleed.  
Given his symptoms are much improved and that it was associated 
with headache this could be secondary to migraine.  We 
recommended Mr. ___ to continue taking his home medications and 
encouraged to continue to be smoke-free.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. MetFORMIN (Glucophage) 500 mg PO TID 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1
2. Atorvastatin 80 mg PO QPM 
3. MetFORMIN (Glucophage) 500 mg PO TID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Numbness & tingling

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the Neurology Service after presenting to 
ED for evaluation of Lt sided abnormal sensation for the past 3 
days.  Images from your brain didn't show evidence of a stroke 
or bleed.  Given your history and physical findings it is very 
unlikely that your symptoms are due to a problem with your brain 
or your spinal cord.  While you were in the hospital your 
symptoms improved but were still persistent.  Other possible 
causes of your symptoms include migraine or stress reaction.  We 
expect your symptoms to continue to improve.  Please continue 
taking you aspirin 81 mg daily along with your other home 
medications.  Also, we encouraged you to continue smoking-free, 
as you've been for the past week.  Please follow up with your 
PCP ___ ___ weeks.
 
Followup Instructions:
___